US08865713B2
Step E: 1-[4-Chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
To a mixture of 2,4-dichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole (0.660 g, 2.40 mmol) and DMF (10 mL), was added Cs2CO3 (1.88 g, 5.76 mmol) and 1H-pyrazole-4-carboxylic acid ethyl ester (0.400 g, 2.88 mmol). The resulting mixture was then heated to 80° C. for 2 h. The mixture was cooled to 23° C., poured into brine (40 mL), and extracted with EtOAc (3×40 mL). The combined organic layers were washed with brine (40 mL), dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (10-50% EtOAc/hexanes) to yield the titled compound as a mixture of regioisomers (0.880 g, 97%). MS (ESI/CI): mass calcd. for C17H19ClN4O4, 378.1; m/z found, 379.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.97 (s, 1H), 8.80 (s, 1H), 8.22 (s, 1H), 8.20 (s, 1H), 7.65 (s, 1H), 7.53 (s, 1H), 7.40-7.23 (m, 4H), 6.38 (s, 2H), 6.16 (s, 2H), 4.41-4.31 (m, 4H), 3.68-3.59 (m, 2H), 3.57-3.49 (m, 2H), 3.48-3.41 (m, 2H), 3.41-3.35 (m, 2H), 3.31 (s, 3H), 3.25 (s, 3H), 1.38 (td, J=7.1, 1.2 Hz, 6H).

reactant | 2,4-dichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole | 2.40 mmol, 0.660 g | ClC1=NC2=C(N1COCCOC)C=CC=C2Cl | C11H12Cl2N2O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | Cs2CO3 | 5.76 mmol, 1.88 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1H-pyrazole-4-carboxylic acid ethyl ester | 2.88 mmol, 0.400 g | C(C)OC(=O)C=1C=NNC1 | C6H8N2O2
solvent | brine | 40 mL | [Cl-].[Na+].O
product | 1-[4-Chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=CC=C2Cl | C17H19ClN4O4
